US07834021B2
N-[2-({(3R)-1-[4-Hydroxy-4-(4-iodophenyl)cyclohexyl]pyrrolidin-3-yl}amino)-2 oxoethyl]-3-(trifluoromethyl)benzamide.
To a solution of 4-hydroxy-4-(4-iodophenyl)cyclohexanone (624 mg, 2 mmol) in CH2Cl2 (10 mL) was added N-((3R)-pyrrolidin -3-ylcarbamoylmethyl)-3-trifluoromethylbenzamide (730 mg, 2 mmol) and then NaBH(OAc)3 (666 mg, 3 mmol). After stirred for 1 h, the reaction was quenched with 10% NaHCO3, and extracted with EtOAc. The organic extracts were combined, washed with saline solution, dried over sodium sulfate, concentrated in vacuo. The residue was chromatographed on silica gel, eluting with 1% NH4OH in ethyl acetate/methanol (100/0 to 10/90) to yield the major isomer (544 mg, 44.2%) and the minor isomer (446 mg, 36.3% yield). For the major isomer, LCMS: 615.2 (M+H+, 100%); 1H NMR: (CDCl3) δ 8.09, (s, 1H); 7.98, (d, 1H); 7.77, (d, 1H); 7.67, (d, 21); 7.57, (t, 1H); 7.28, (d, 2H); 7.22, (t, 1H, NH); 6.44, (d, 1H, NH); 4.49, (m, 1H); 4.12, (m, 2H); 2.87, (m, 1H); 2.64, (m, 2H); 2.38, (m, 1H); 2.25, (m, 4H); 1.93, (m, 2H); 1.54-1.70, (m, 6H).

reactant | 4-hydroxy-4-(4-iodophenyl)cyclohexanone | 2 mmol, 624 mg | OC1(CCC(CC1)=O)C1=CC=C(C=C1)I | C12H13IO2
reactant | N-((3R)-pyrrolidin -3-ylcarbamoylmethyl)-3-trifluoromethylbenzamide | 2 mmol, 730 mg | N1C[C@@H](CC1)NC(=O)CNC(C1=CC(=CC=C1)C(F)(F)F)=O | C14H16F3N3O2
reactant | NaBH(OAc)3 | 3 mmol, 666 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-[2-({(3R)-1-[4-Hydroxy-4-(4-iodophenyl)cyclohexyl]pyrrolidin-3-yl}amino)-2 oxoethyl]-3-(trifluoromethyl)benzamide | 36.3% yield | OC1(CCC(CC1)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)C1=CC=C(C=C1)I | C26H29F3IN3O3
